US08134007B2
2-Bromo-1-chloro-4-methoxymethyl-benzene
To a stirred solution of 4-chloro-3-bromophenyl-methanol (cited in Amgen patent WO03099776) (900 mg, 4.06 mmol) in 2-methyl-tetrahydrofuran (15 ml) was added potassium hydroxide (912 mg, 16.3 mmol) and the resulting suspension was stirred at room temperature for 30 minutes. Iodomethane (1.01 ml, 4.00 mmol) was then added and the reaction was stirred for 16 hours at room temperature. LCMS indicated incomplete reaction. Potassium hydroxide (912 mg, 16.3 mmol) was added and the resulting mixture stirred for 5 minutes before adding further iodomethane (4.04 ml, 16 mmol) and stirring was continued for 3 hours at room temperature. Ethyl acetate (60 ml) and saturated brine solution (30 ml) were added and the layers were separated. The organic extract was further washed with saturated brine solution (2×30 ml) then dried over anhydrous MgSO4 (s), filtered and evaporated in vacuo to afford the crude title compound as a yellow oil (901 mg, 94%).

reactant | 4-chloro-3-bromophenyl-methanol | 4.06 mmol, 900 mg | ClC1=C(C=C(C=C1)CO)Br | C7H6BrClO
reactant | potassium hydroxide | 16.3 mmol, 912 mg | [OH-].[K+]
reactant | Iodomethane | 4.00 mmol, 1.01 ml | IC | CH3I
reactant | Potassium hydroxide | 16.3 mmol, 912 mg | [OH-].[K+]
reactant | iodomethane | 16 mmol, 4.04 ml | IC | CH3I
reactant | Ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | 2-methyl-tetrahydrofuran | 15 ml | CC1OCCC1 | C5H10O
solvent | brine | 30 ml | [Cl-].[Na+].O
product | 2-Bromo-1-chloro-4-methoxymethyl-benzene | 901 mg, 94% | BrC1=C(C=CC(=C1)COC)Cl | C8H8BrClO
